US04013641
METHYL-3-[2-NITRO-4-CHLOROPHENOXY]-1-BENZYL-INDOLE-2-CARBOXYLATE
In the same way as described in example 5, methyl-3-[2-nitro-4-chlorophenoxy]-indole-2-carboxylate was alkylated with benzyl bromide. Analytical material was obtained by recrytallization from ethanol, mp. 120°-1°.

reactant | methyl-3-[2-nitro-4-chlorophenoxy]-indole-2-carboxylate | COC(=O)C=1NC2=CC=CC=C2C1OC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C16H11ClN2O5
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethanol | C(C)O | C2H6O
product | METHYL-3-[2-NITRO-4-CHLOROPHENOXY]-1-BENZYL-INDOLE-2-CARBOXYLATE | COC(=O)C=1N(C2=CC=CC=C2C1OC1=C(C=C(C=C1)Cl)[N+](=O)[O-])CC1=CC=CC=C1 | C23H17ClN2O5
